US05622976
A mixture of 1-benzyl-4-(4-cyanobutyl)piperidine (2.20 g), potassium carbonate (3.56 g) and hydroxylamine hydrochloride (2.39 g) was heated under reflux for 20 hours. After cooling, the mixture was filtered and evaporated in vacuo. The residue was dissolved in ether, filtered and recrystallized to afford 5-(1-benzylpiperidin-4-yl)-1-hydroxyiminopentylamine (1.56 g).

reactant | 1-benzyl-4-(4-cyanobutyl)piperidine | 2.20 g | C(C1=CC=CC=C1)N1CCC(CC1)CCCCC#N | C17H24N2
reactant | potassium carbonate | 3.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxylamine hydrochloride | 2.39 g | Cl.NO
product | 5-(1-benzylpiperidin-4-yl)-1-hydroxyiminopentylamine | 1.56 g | C(C1=CC=CC=C1)N1CCC(CC1)CCCCC(=NO)N | C17H27N3O
